US05366981
1-(3-pyrrolin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride
Prepared as Example No. 1 from 1.4 g (5.78 mmoles) of 1-(3-pyrrolin-1-yl)methyl-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline, 1.6 g (11.59 moles) of anhydrous potassium carbonate and 1.5 g (6.71 moles) of 3,4-dichlorophenylacetyl chloride in 50 ml of dry chloroform. The work-up of the reaction mixture afforded 1.9 g of the crude product which was dissolved in 60 ml of ethyl acetate and the solution brought to acidic pH with HCl/diethyl ether. The precipitate was filtered, washed and dried, to yield 1.6 g of the title compound. C24H26Cl2N2O.HCl M.P.=254°-257° C. M.W.=465.843 Elemental analysis: Calcd. C,61.87; H,5.84; N,6.01; Cl,22.83; Found C,61.94; H,5.88; N,5.99; C1,22.75. I.R. (KBr): 3450; 2960; 2540; 1630; 1440 cm-1N.M.R. (CDCl3): δ12.5 (s, broad, 1H); 6.9-7.5 (m, 7H); (80 MHz) 6.1 (dd, 1H); 5.8 (s, 2H); 3.9-5.1 (m, 4H);

reactant | 1-(3-pyrrolin-1-yl)methyl-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline | 5.78 mmoles, 1.4 g | N1(CC=CC1)CC1NCC(C2=CC=CC=C12)(C)C | C16H22N2
reactant | potassium carbonate | 11.59 moles, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dichlorophenylacetyl chloride | 6.71 moles, 1.5 g | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
reactant | HCl diethyl ether | Cl.C(C)OCC
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-pyrrolin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.6 g | Cl.N1(CC=CC1)CC1(NCC(C2=CC=CC=C12)(C)C)C(CC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C24H26Cl2N2O.ClH/c1-23(2)15-27-24(16-28-11-5-6-12-28,19-8-4-3-7-18(19)23)22(29)14-17-9-10-20(25)21(26)13-17;/h3-10,13,27H,11-12,14-16H2,1-2H3;1H
